US07786125B2
Dopamine (DA) Uptake Assay
[3H]DA uptake was measured in cultures at day 7, and all the solutions were maintained at 37° C. The growth medium was removed, and the cultures were rinsed twice with 0.25 ml of uptake buffer, which consists of HBSS (Gibco 11201-092) supplemented with 28 mM glucose, 15 mM HEPES, 1 mM ascorbic acid (an antioxidant), and 0.5 nM pargyline (a monoamine oxidase inhibitor). The cultures were then incubated with 0.25 ml of fresh uptake buffer containing 50 nM [3H]DA (NEN/DuPont) for 20 min at 37° C. [3H]DA uptake was stopped by removing the incubation mixture, and cells were then washed twice with 0.5 ml of the uptake buffer at room temperature. To release [3H]DA from the cells, the cultures were lysed with 0.2 ml of 0.1 N NaOH for 1 h at room temperature, the lysate was then added to 1 ml of Microscint-20 (Packard 6013621), and counted for radioactivity in a microplate scintillation counter (Packard TopCount, NXT). Background values were obtained by adding to the uptake buffer 0.5 mM GBR-12909, a specific inhibitor of the high-affinity uptake pump of the dopaminergic neurons, and were usually <5% of the 3H uptake in untreated control cultures. Forskolin (Fk, 25 μM) was employed as a positive control.

reactant | GBR-12909 | 0.5 mM | C=1C=CC(=CC1)CCCN2CCN(CC2)CCOC(C=3C=CC(=CC3)F)C=4C=CC(=CC4)F | C28H32F2N2O
reactant | Forskolin | 25 μM | CC(=O)O[C@H]1[C@H]([C@@H]2[C@]([C@H](CCC2(C)C)O)([C@@]3([C@@]1(O[C@@](CC3=O)(C)C=C)C)O)C)O | C22H34O7
product | Dopamine | NCCC1=CC(O)=C(O)C=C1 | C8H11NO2
